Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
chest pain 
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
History of Present Illness: This is a ___ w/h/o DM2, prostate 
CA who presents w/CP, left sided which started last night around 
7 pm. The pain began intermittently, worse with deep breath or 
lying flat. He describes it as sharp, stabbing pain, unlike his 
prior CP, which was more of a pressure. He had a URI starting 5 
days prior, with cough, rhinorrhea, headache and fever to 101. 
Missed 2 days of work. No fever in last 3 days. His pain became 
constant ___ around 4am the morning of admission. At that time 
he had one episode of emesis. He felt hot, but no sweats or 
clamminess. His pain began to radiate up the back of his neck, 
not in the arm. He got some relief with bending over. No SOB, 
but painful to breathe deeply. No palpitations.
.  
Patient has recently undergone an evaluation for recurrent CPs, 
which he describes as pressure with ambulation and stress. He 
had a stress echo w/o hemodynamic instability, no symptoms, but 
did have STd in inferior and V3-6 resolving within 1 minutes of 
exercise. Based on impression of his cardiologist, Dr. ___, 
___ pains were deemed non-cardiac in origin.  
.  
In the ED, initial vs were: T 98 P 70 BP 162/96 R 20 O2 sat 99% 
on RA. Patient was given ASA 325 mg, Nitroglycerin SL 0.4 mg x 
3, with gradual resolution of chest pain. Also got 1 L NS. EKG 
unchanged from baseline. First set of Troponins were negative, 
CK was 177, with CK-MB of 4.  
. 
On the floor pain is ___. Patient is lying comfortably.
.  
Review of sytems:  
(+) Per HPI. Also noted tingling in feet, unchanged from 
baseline neuropathy. 
(-) Denies: fever in last 3 days, chills, night sweats, recent 
weight loss or gain, shortness of breath, palpitations, ___ 
swelling, diarrhea, constipation, abdominal pain, recent change 
in bowel or bladder habits, dysuria, arthralgias, myalgias, back 
pain.
 
Past Medical History:
- h/o prostate cancer (s/p Casodex/Tamoxifen and radiation 
therapy, complete ___  
- Type 2 diabetes mellitus (diagnosed ___ years ago, home FSBG 
100-140's)
- Hypertension (SBP 140's per patient)
- Erectile dysfunction  
- History of gunshot wound ___ ago), retained bullet/shrapnel 
in anterior chest, s/p left chest surgery.  
- h/o GERD  
- depression  
- tension headaches  
 
Social History:
___
Family History:
Uncle with diabetes. Denies family h/o premature cad.
 
Physical Exam:
VS - T 97.1, BP 130/80, HR 60, RR 16, O2 Sat 100% on RA
Gen: WDWN middle aged male in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa.  
Neck: Supple with JVP of 5 cm.  
CV: PMI located in ___ intercostal space, midclavicular line. 
RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.  
Chest: No scoliosis or kyphosis. Surgical scar on left 
posterior. Resp were unlabored, no accessory muscle use. CTAB, 
no crackles, wheezes or rhonchi. Occaisional coughs.
Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by 
palpation. No abdominial bruits.  
Ext: No c/c/e.  
Skin: No stasis dermatitis, ulcers, or xanthomas.  
.  
Pulses:  
Right: Carotid 2+  DP 1+ ___ 2+  
Left: Carotid 2+ DP 1+ ___ 2+  
 
Pertinent Results:
___ 06:50AM   WBC-5.1 RBC-4.60 HGB-14.4 HCT-41.4 MCV-90 
MCH-31.3 MCHC-34.8 RDW-13.6
___ 06:50AM   CK-MB-4,  5:02 CK-MB 3, ___ CK-MB 3
___ 06:50AM   cTropnT-<0.01, 5:02 cTropnT-<0.01, ___ 
cTropnT-<0.01
___ 06:50AM   LIPASE-78*   ___  00:43 Lipase 48
___ 06:50AM   ALT(SGPT)-19 AST(SGOT)-22 CK(CPK)-177* ALK 
PHOS-75 TOT BILI-0.5
___ 08:08AM   D-DIMER-240

___ CXR:
1. No acute cardiopulmonary process. 
2. Left upper lobe bronchial foreign body with associated apical 

bronchiectasis and scarring, unchanged. 

CXR: No acute cardiopulmonary process. Left upper lobe bronchial 
foreign body with associated apical bronchiectasis and scarring, 
unchanged 
.  
Exercise Stress Echo ___: Very good functional exercise 
capacity. Ischemic ECG changes in the absence of 2D 
echocardiographic evidence of inducible ischemia to achieved 
workload. Normal hemodynamic response to exercise. LVEF > 60%.  
.  
Exercise stress ___: Very good functional exercise capacity 
___ METS). Ischemic EKG changes (STd inferior leads, V3-6, 
1-1.5 mm, resolved within 1 min post exercise) in the absence of 
anginal type symptoms to achieved workload. Normal hemodynamic 
response to exercise.  
.  
EKG: pWI in inferior leads and V3-6. No STe or depressions. rSR 
in V1. No significant change from EKG on ___  
 
Brief Hospital Course:
This is a ___ yo man w/ hx of DM, erectile dysfunction, HTN, 
Prostate cancer and GERD presenting to ED with chest pain.  
.  
# Chest Pain. Pain has resolved. History concerning for cardiac 
pain with constant pain associated with emesis and feeling hot. 
Cardiac less likely given association of pain with position and 
pleuritic component, no EKG changes in ED, initial troponin 
negative, CK mildly elevated with normal CK-MB fraction.  Recent 
stress test and echo did not reproduce symptoms, excellent 
function with induced EKG changes without changes on echo. 
Differential includes pneumonia,pericarditis, muscle strain 
associated with recent upper respiratory illness with fevers and 
cough. Elevated CK concerning for influenza. No sign of 
pulmonary process on CXR. No EKG changes reflective of 
pericarditis. Reflux pain also possible in patient with history 
of GERD. Patient completed ___, troponin and Ck-MB checked 
until negative x 3. For non-cardiac chest pain, omeprazole given 
20 mg QDay for reflux control
Given Ibuprofen 800mg TID for pain.

# Diabetes. On oral therapy. HbA1C is 6.6 from ___. Given good 
control and no contraindications, will continue oral agent for 
now. Will need A1C this month as outpatient.Continued Metformin 
1500mg QD.  
 
# HTN. Currently 130/80. On Lisinopril 5mg QD. Goal < 130/80.  
- Continue Lisinopril 5mg QD.  
.
# Prophylaxis: Subcutaneous heparin.  

 
Medications on Admission:
IBUPROFEN - 800 mg Tablet - 1 Tablet(s) by mouth three times a  
day with meals  
LISINOPRIL - 5 mg Tablet - 1 Tablet(s) by mouth daily  
METFORMIN [GLUCOPHAGE] - (Prescribed by Other Provider) - 500 mg 
 
Tablet - 3 (Three) Tablet(s) by mouth per day  
OMEPRAZOLE [PRILOSEC] - 20 mg Capsule, Delayed Release(E.C.) - 1 
 
Capsule(s) by mouth daily  (Not currently taking per patient)
SILDENAFIL [VIAGRA] - 100 mg Tablet - 1 Tablet(s) by mouth 1 
hour  
prior to intercourse  (last use 2 weeks ago) 
 
Discharge Medications:
1. Lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

2. Metformin 500 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
3. Ibuprofen 400 mg Tablet Sig: Two (2) Tablet PO TID W/MEALS (3 
TIMES A DAY WITH MEALS).  
4. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
5. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
coronary artery disease - completed rule out infarction
diabetes, type 2

secondary - hypertension, prostate cancer
 
Discharge Condition:
stable

 
Discharge Instructions:
You were admitted for chest pain. You were ruled out for a 
cardiac event, you did not have a heart attack. Given your 
previous stress echo findings, it is unlikely that the cause of 
your chest pain is cardiac.

No medication changes were made.

You should follow up with your PCP. Please return to the ED or 
seek medical advice if you have another episode of chest pain or 
shortness of breath that does not resolve with nitroglycerin.
 
Followup Instructions:
___